US07186753B1
To a solution of ambroxol (5 g, 13.22 mmoles) in dioxane (35 ml) and water (50 ml), triethylamine (3.31 ml, 23.7 mmoles) and di-tert-butyldicarbonate (3.46 g, 15.86 mmoles) are added. The reaction mixture is left under stirring at room temperature for 24 hours, then concentrated at reduced pressure. The residue is treated by adding portions of a 1% HCl solution until pH 7, then the solution is extracted with ethyl acetate. The organic phase anhydrified with sodium sulphate is evaporated under vacuum. 4-[(2-tert-butoxycarbonylamino-3,5-dibromophenyl)methylamino]trans cyclohexanol is obtained, which is used in the subsequent step without further purification.

reactant | ambroxol | 13.22 mmoles, 5 g | C=1C(=C(C(=CC1Br)Br)N)CN[C@H]2CC[C@@H](CC2)O | C13H18Br2N2O
reactant | triethylamine | 23.7 mmoles, 3.31 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyldicarbonate | 15.86 mmoles, 3.46 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 35 ml | O1CCOCC1 | C4H8O2
solvent | water | 50 ml | O | H2O
product | 4-[(2-tert-butoxycarbonylamino-3,5-dibromophenyl)methylamino]trans cyclohexanol | C(C)(C)(C)OC(=O)NC1=C(C=C(C=C1Br)Br)CN[C@@H]1CC[C@H](CC1)O | C18H26Br2N2O3
